US06936608B2
2,4-Dichloropyrimidine (2.0 g, 13 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (3.9 g, 15 mmol) using the method of Example 20. Purification by chromatography (silica gel, 20% isohexane/CH2Cl2) gave 2-chloro-4-(2-fluoro-5-nitrophenyl)-pyrimidine as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.40 (1H, dd, J 10, 9 Hz), 7.85 (1H, dd, J 5, 2 Hz), 8.38-8.43 (1H, m), 8.77 (1H, d, J 6), 9.16 (1H, q, J 3 Hz).

reactant | 2,4-Dichloropyrimidine | 13 mmol, 2.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 15 mmol, 3.9 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 2-chloro-4-(2-fluoro-5-nitrophenyl)-pyrimidine | ClC1=NC=CC(=N1)C1=C(C=CC(=C1)[N+](=O)[O-])F | C10H5ClFN3O2
